US09193751B2
Gluconolactone Solution:
A 5 L glass-lined reactor was charged with (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)tetrahydro-2H-pyran-2-one (1.52 kg) and n-heptane (1.63 kg) and stirred for 10 min under nitrogen sparging. After sparging, the mixture was cooled to −30 to −20° C. under nitrogen atmosphere, stirred for 30 minutes, and then added to a cooled addition funnel.

reactant | (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)tetrahydro-2H-pyran-2-one | 1.52 kg | C[Si](O[C@H]1C(O[C@@H]([C@H]([C@@H]1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)=O)(C)C | C18H42O6Si4
solvent | n-heptane | 1.63 kg | CCCCCCC | C7H16
product | Gluconolactone | C([C@@H]1[C@H]([C@@H]([C@H](C(=O)O1)O)O)O)O | C6H10O6
